US08202858B2
4-[2-(4-Methoxycarbonyl-2-methyl-phenoxy)-ethyl]-piperazine-1-carboxylic Acid Tert-butyl Ester
4-(2-Hydroxy-ethyl)-piperazine-1-carboxylic acid tert-butyl ester (500 mg, 2.2 mmol) was dissolved in THF (30 ml) and cooled down to 0° C. Polymer-supported triphenylphosphine (2.2 g, 2.2 mmol), DEAD (378 mg, 2.2 mmol) and 4-hydroxy-3-methyl-benzoic acid methyl ester from Example E29 (361 mg, 2.2 mmol) were added and the mixture was stirred for 20 h at room temperature. The resin was filtered off and the filtrate concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; EtOAc) to yield the title compound (495 mg, 60%).

reactant | 4-(2-Hydroxy-ethyl)-piperazine-1-carboxylic acid tert-butyl ester | 2.2 mmol, 500 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CCO | C11H22N2O3
reactant | triphenylphosphine | 2.2 mmol, 2.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 2.2 mmol, 378 mg | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 4-hydroxy-3-methyl-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)O)C)=O | C9H10O3
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-[2-(4-Methoxycarbonyl-2-methyl-phenoxy)-ethyl]-piperazine-1-carboxylic Acid Tert-butyl Ester | 495 mg, 60% | C(C)(C)(C)OC(=O)N1CCN(CC1)CCOC1=C(C=C(C=C1)C(=O)OC)C | C20H30N2O5
